US09428477B2
Production of 1-((E)-2-Decenoyl)-4-(2-piperidin-1-ylethyl)piperazine [Compound 24]
The same procedures as in Example 2 were carried out using (E)-2-decenoic acid and 1-[2-(1-piperidinyl)ethyl]piperazine as starting raw materials, to produce an intended compound.

reactant | (E)-2-decenoic acid | C(\C=C\CCCCCCC)(=O)O | C10H18O2
reactant | 1-[2-(1-piperidinyl)ethyl]piperazine | N1(CCCCC1)CCN1CCNCC1 | C11H23N3
product | 1-((E)-2-Decenoyl)-4-(2-piperidin-1-ylethyl)piperazine | C(\C=C\CCCCCCC)(=O)N1CCN(CC1)CCN1CCCCC1 | C21H39N3O
